data/mechanism_extracts/SynthCommun/10.1080_00397911.2022.2028843.json
{"doi": "10.1080_00397911.2022.2028843", "journal": "SynthCommun", "is_review": false, "rxn_class_summary": "Electrochemical bromolactonization of 4-aryl-4-pentenoic acids with CBr4 as bromine radical source to give bromomethylated γ-butyrolactones", "mechanism_family": ["radical_anodic", "mediator_cathodic", "paired_electrolysis", "radical_polar_crossover", "carbocation"], "electrochemical_role": "Cathodic reduction of CBr4 generates Br- and •CBr3; bromide is then anodically oxidized to Br• (and/or Br+), which adds across the alkene; benzylic radical is further oxidized at the anode to a benzylic cation", "key_intermediates": [{"name": "tribromomethyl radical (•CBr3, quenched to CHBr3)", "smiles": "[C](Br)(Br)Br", "role": "transient"}, {"name": "bromine radical (Br•) from anodic oxidation of Br-", "smiles": "[Br]", "role": "reactive"}, {"name": "bromine cation (Br+) alternative anodic species", "smiles": "[Br+]", "role": "reactive"}, {"name": "benzylic carbon radical intermediate I after Br• addition to alkene", "smiles": "OC(=O)CCC([Ph])(C[Br])[CH]", "role": "transient"}, {"name": "benzylic carbocation intermediate II", "smiles": "OC(=O)CC[C+](c1ccccc1)CBr", "role": "reactive"}, {"name": "bromomethyl γ-butyrolactone 3a", "smiles": "O=C1OC(CBr)(c2ccccc2)CC1", "role": "reactive"}], "electron_flow": "At the cathode CBr4 is reduced to Br- and •CBr3 (trapped as CHBr3, with H+ reduced to ½H2); at the anode Br- is oxidized to Br• which adds to the alkene of 1a to give benzylic radical I, which is further oxidized at the anode to benzylic cation II (alternatively Br+ adds directly to 1a giving II); intramolecular nucleophilic cyclization by the carboxylic acid then delivers γ-lactone 3a with loss of H+.", "rate_determining_step": null, "probe_reagents": [{"name": "TEMPO", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "radical_trap", "observation": "Reaction still afforded 3a in 42% yield (radical pathway implicated but not fully suppressed)"}, {"name": "BHT", "smiles": "Cc1cc(C(C)(C)C)c(O)c(C(C)(C)C)c1", "purpose": "radical_trap", "observation": "3a obtained in 44% yield under BHT (radical intermediates implicated)"}, {"name": "molecular Br2 (control without current)", "smiles": "BrBr", "purpose": "intermediate_trap", "observation": "Only trace 3a formed, indicating Br2 is not the active brominating intermediate"}], "evidence_types_used": ["intermediate_trap_TEMPO", "intermediate_trap_BHT", "cyclic_voltammetry", "intermediate_trap_other"], "evidence_strength": "medium", "notes": "Authors present two converging anodic pathways to the benzylic cation II: (a) Br• addition giving radical I followed by anodic oxidation, or (b) direct Br+ addition to the alkene. CV showed oxidation peaks of 1a at 1.74 V and CBr4 at 1.03 V, and CBr4 reduction at -0.78 V, consistent with cathodic activation of CBr4 and anodic oxidation of bromide/substrate. Radical traps only partially suppress the reaction, suggesting both radical and cationic routes may operate."}
